datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:10])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:8])[H:9],49.413
[N:0]([O:1][H:4])([H:2])[H:3].[O:5][O:6][H:7]>>[H:2][O:5][O:6][H:7].[N:0]([O:1][H:4])[H:3],39.999
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:13])([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[O:5]1)([O:7][O:8][H:19])[H:12])([H:9])([H:10])[H:11].[O:6][H:18],64.0152
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])[H:12])[H:8]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])[C:4]1([H:12])[C:5]([H:13])([H:14])[C:6]1([C:7]([H:16])([H:17])[H:18])[H:15])[H:8],24.7693
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5](=[C:6]([H:11])[H:12])[C:7]([O:8][H:15])([H:13])[H:14])([H:9])[H:10]>>[C:0](=[O:1])[H:3].[H:2][C:4]([C:5](=[C:6]([H:11])[H:12])[C:7]([O:8][H:15])([H:13])[H:14])([H:9])[H:10],76.10696
[C:0]#[C:1][C:2]#[C:3][C:4]#[C:5][C:6]#[C:7][H:8].[c:9]1([H:15])[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20]>>[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][C:6]#[C:7][H:8])[H:15].[c:9]1[c:10]([H:16])[c:11]([H:17])[c:12]([H:18])[c:13]([H:19])[c:14]1[H:20],0.0
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](#[C:25][C:26]([C:27]([H:30])([H:31])[H:32])[H:29])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25]#[C:24][H:28])([C:27]([H:30])([H:31])[H:32])[H:29])[H:12],40.3338
[C:0]([C:1]([S:2][H:8])([H:6])[H:7])([H:3])([H:4])[H:5].[S:9]=[C:10][S:11][H:12]>>[C:0]([C:1]([S:2][H:8])[H:7])([H:3])([H:4])[H:5].[H:6][C:10](=[S:9])[S:11][H:12],44.7688
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])[C:6]([C:7]([C:8]([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])([H:21])[H:22])([H:19])[H:20])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]1([H:15])[C:3]([C:4](=[C:5]([H:17])[H:18])[H:16])[C:6]([H:19])([H:20])[C:7]([H:21])([H:22])[C:8]1([C:9]([H:23])([H:24])[H:25])[C:10](=[C:11]([H:27])[H:28])[H:26])[H:14])([H:12])[H:13],90.3744
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](=[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]#[C:3][H:5])[C:8]([C:7](=[C:6]([H:12])[H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[C:11]([H:19])[H:20])[H:18])[H:4],79.4123
[C:0]([C:1]=[C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[H:10])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])[H:9])[H:10])([H:6])([H:7])[H:8],139.746
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11]([H:15])([H:16])[H:17])[C:12]([H:18])([H:19])[H:20])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:9]([C:10]([C:11]([H:15])([H:16])[H:17])[C:12]([H:18])([H:19])[H:20])([H:13])[H:14])[H:4],34.267
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])=[C:8]([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([C:7]([H:19])([H:20])[H:21])[C:8]1([C:9]([H:22])([H:23])[H:24])[C:10]([H:25])([H:26])[H:27])[H:11],61.965
[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[H:7]>>[C:0]([C:1](=[N:2])[H:6])([H:4])[H:5].[H:3][H:7],63.1784
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[C:3]([H:10])([H:11])[H:12])([H:4])([H:5])[H:6].[S:13][S:14][H:15]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[S:13][S:14][H:15])([H:4])([H:5])[H:6],-3.09616
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]=[C:15]([S:16][H:18])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:18])[H:7])([H:5])[H:6].[S:14]=[C:15]([S:16])[H:17],11.2968
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:14][O:27][H:28],-6.63164
